US04463177
3-(2-Bromo-3-oxocyclohex-1-enyl)-1-propyl-2-piperidone
A solution of 1-propyl-2-piperidone (50 mM) in benzene (40 ml) was added dropwise to a solution of lithium di-isopropylamide [ex n-butyl lithium in hexane (32.3 ml, 50 mM), di-isopropylamine (7 ml, 50 mM) and THF (33 ml)]. A solution of 2-bromo-3-methoxycyclohex-2-en-1-one (10.25 g, 50 mM) in THF (40 ml) was added, and after 5 minutes the mixture was quenched by pouring on to excess aqueous hydrochloric acid. Ether extraction followed by passage through a short silica pad using ethyl acetate as eluant gave the title compound as a colourless oil (10.75 g).

reactant | 1-propyl-2-piperidone | 50 mM | C(CC)N1C(CCCC1)=O | C8H15NO
reactant | lithium di-isopropylamide | 50 mM, 32.3 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromo-3-methoxycyclohex-2-en-1-one | 50 mM, 10.25 g | BrC=1C(CCCC1OC)=O | C7H9BrO2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-(2-Bromo-3-oxocyclohex-1-enyl)-1-propyl-2-piperidone | 10.75 g | BrC1=C(CCCC1=O)C1C(N(CCC1)CCC)=O | C14H20BrNO2
